US04279912
2.8 g of 2-amino-4-isopropoxyquinoline were dissolved in 50 ml of dimethoxyethane and 4 g of ethyl bromopyruvate were added thereto. The mixture obtained was allowed to stand at room temperature for 1 hour and then was reduced in volume under vacuum. 50 ml of ethanol were added thereto and the resultant mixture was refluxed for 90 minutes. The ethanol was evaporated off under vacuum and the residue was dissolved in 100 ml of 2 N HCl. The acid solution thus obtained was washed with 50 ml of ethyl acetate and then was made alkaline with sodium carbonate. The mixture was extracted three times with 50 ml of chloroform and the combined chloroform extracts were washed with 100 ml of water, dried over MgSO4 and then was evaporated to dryness under reduced pressure to obtain an orange oil. The oil was purified by column chromatography (silica gel-chloroform as eluant) and then was crystallized from diethyl ether to obtain colorless needles of ethyl 5-isopropoxyimidazo-[1,2-a]-quinoline-2-carboxylate melting at 127°-129° C.

reactant | 2-amino-4-isopropoxyquinoline | 2.8 g | NC1=NC2=CC=CC=C2C(=C1)OC(C)C | C12H14N2O
reactant | ethyl bromopyruvate | 4 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | ethyl 5-isopropoxyimidazo-[1,2-a]-quinoline-2-carboxylate | C(C)(C)OC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C17H18N2O3
